US06777428B1
4-(3-aminobenzoyl)piperidine HCl (10.87 g (45.15 mmol)) was suspended in absolute ethanol (220 mL) in presence of propylene oxide (3.185 g, 3.84 mL, 54.84 mmol) at room temperature for 15 min. p-fluorobenzoyl chloride (8.93 g, 6.65 mL, 56.44 mmol) was then added dropwise. During the addition, a partial dissolution was observed before the formation of a thick precipitate. The temperature rose from 22° C. to 33° C. during the acylation. The suspension was post-agitated at room temperature for 4 h. Then, the precipitate was filtered, washed with ethanol (22 mL) and diethylether (40 mL). 15.38 g (94%) of 4-[3-(4-fluorobenzamidyl)benzoyl]piperidine HCl were obtained after drying at 50° C. under vacuum for 12 hours.

reactant | 4-(3-aminobenzoyl)piperidine HCl | 45.15 mmol, 10.87 g | Cl.NC=1C=C(C(=O)C2CCNCC2)C=CC1
reactant | propylene oxide | 54.84 mmol, 3.84 mL, 3.185 g | C1C(C)O1 | C3H6O
reactant | p-fluorobenzoyl chloride | 56.44 mmol, 6.65 mL, 8.93 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | 4-[3-(4-fluorobenzamidyl)benzoyl]piperidine HCl | 15.38 g, 94% | Cl.FC1=CC=C(C(=O)NC=2C=C(C(=O)C3CCNCC3)C=CC2)C=C1 | InChI=1S/C19H19FN2O2.ClH/c20-16-6-4-14(5-7-16)19(24)22-17-3-1-2-15(12-17)18(23)13-8-10-21-11-9-13;/h1-7,12-13,21H,8-11H2,(H,22,24);1H
